US08193228B2
Dess-Martin periodinane (7.6 g, 17.96 mmol) was added to an ambient temperature solution of methyl (4-bromophenyl)(hydroxy)acetate (4 g, 16.33 mmol) in methylene chloride (100 mL). After stirring at ambient temperature for 2 h, the reaction mixture was quenched with saturated aqueous sodium thiosulfate/saturated aqueous sodium bicarbonate (1:1) and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded methyl (4-bromophenyl)(oxo)acetate.

reactant | Dess-Martin periodinane | 17.96 mmol, 7.6 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | methyl (4-bromophenyl)(hydroxy)acetate | 16.33 mmol, 4 g | BrC1=CC=C(C=C1)C(C(=O)OC)O | C9H9BrO3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl (4-bromophenyl)(oxo)acetate | BrC1=CC=C(C=C1)C(C(=O)OC)=O | C9H7BrO3
